US06730668B2
Preparation of 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (25):
To a solution of 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 24, (3.9 g, 10 mmol) in THF:methanol (150 mL of a 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (24.3 g, 39.5 mmol) in water (100 mL). The reaction is stirred 1 hour at room temperature, diluted with aqueous NaHCO3 and extract three times with ethyl acetate. The organic layers are combined, dried, and concentrated in vacuo to afford the crude desired product which is used without further purification.

reactant | 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CN(C1CN2N(C1)C(C(=C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F)=O)C | C19H20FN5OS
reactant | methanol | CO | CH4O
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CN(C1CN2N(C1)C(C(=C2C2=NC(=NC=C2)S(=O)(=O)C)C2=CC=C(C=C2)F)=O)C | C19H20FN5O3S
